US07923562B2
14-(8-Bromo-7-hydroxyquinolin-2-yl)-5,12,18-trioxo-13-oxa-4,11,17-triazatricos-1-yn-23-oic acid (SO207).
To a stirred solution of methyl 14-(8-bromo-7-(phenylsulfonyloxy)quinolin-2-yl)-5,12,18-trioxo-13-oxa-4,11,17-triazatricos-1-yn-23-oate (20 mg, 0.026 mmol) in MeOH (500 uL), were added 0.4 N NaOH (500 uL), and the reaction mixture was stirred for 4 h at room temperature. Methanol was removed in vacuo, and remaining mixture was loaded onto a TOYOPEARL SuperQ-650M packed column pre-washed with 0.2 N NaOH. After washing the column with CH3CN/H2O (1:1) twice, the loaded compound was eluted with AcOH/CH3CN/H2O (5:50:45). After remove the CH3CN in vacuo, the remaining mixture was lyophilized overnight to dryness. The residue was dissolved in MeOH/CH3Cl, transferred to a new vial and evaporated to give a yellow gum (15 mg, 0.024 mmol, 92%) and was used for next step without further purification. MS-ESI (m/z): [M+H]+ calculated for C28H36BrN4O7, 619.2 (79Br) and 621.2 (81Br); found 619.3 (79Br) and 621.3 (81Br).

reactant | methyl 14-(8-bromo-7-(phenylsulfonyloxy)quinolin-2-yl)-5,12,18-trioxo-13-oxa-4,11,17-triazatricos-1-yn-23-oate | 0.026 mmol, 20 mg | BrC=1C(=CC=C2C=CC(=NC12)C(OC(NCCCCCC(NCC#C)=O)=O)CCNC(CCCCC(=O)OC)=O)OS(=O)(=O)C1=CC=CC=C1 | C35H41BrN4O9S
reactant | NaOH | 0.4 N, 500 uL | [OH-].[Na+]
solvent | MeOH | 500 uL | CO | CH4O
product | 14-(8-Bromo-7-hydroxyquinolin-2-yl)-5,12,18-trioxo-13-oxa-4,11,17-triazatricos-1-yn-23-oic acid | 0.024 mmol, 15 mg, 92% | BrC=1C(=CC=C2C=CC(=NC12)C(OC(NCCCCCC(NCC#C)=O)=O)CCNC(CCCCC(=O)O)=O)O | C28H35BrN4O7
